US09120749B2
(R)-tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (311 mg, 1 mmol) was reacted with (R)-tert-butyl 1-(5-aminopyridin-2-yl)piperidin-3-ylcarbamate (439 mg, 1.5 mmol) to afford the desired product (516 mg, 91%) as a yellow solid:: ESI MS m/z 566 [C28H32BrN5O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1 mmol, 311 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | (R)-tert-butyl 1-(5-aminopyridin-2-yl)piperidin-3-ylcarbamate | 1.5 mmol, 439 mg | NC=1C=CC(=NC1)N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C15H24N4O2
product | (R)-tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 516 mg, 91% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C28H32BrN5O3
